US05286905
A 20 ml autoclave was charged with 4.20 g (17.3 mmol) of 1-(3,5-dimethylphenoxy)-2-bromopropane, 4 ml of methanol and 0.03 g of sodium iodide, and the autoclave was cooled in a dry ice.acetone bath. The pressure in the autoclave was reduced, and 7 g of liquid ammonia was added. The autoclave was allowed to stand until its temperature reached room temperature, and the mixture was continuously stirred at 130° C. for 7 hours to finish the reaction. After allowed to cool, the reaction mixture was post-treated in the same manner as in Example 26 to give 1.66 g of 1-(3,5-dimethylphenoxy)-2-aminopropane (yield 53.8%).

reactant | 1-(3,5-dimethylphenoxy)-2-bromopropane | 17.3 mmol, 4.20 g | CC=1C=C(OCC(C)Br)C=C(C1)C | C11H15BrO
reactant | sodium iodide | 0.03 g | [I-].[Na+]
reactant | dry ice | C(=O)=O | CO2
reactant | ammonia | N | H3N
solvent | methanol | 4 ml | CO | CH4O
product | 1-(3,5-dimethylphenoxy)-2-aminopropane | 1.66 g, yield 53.8% | CC=1C=C(OCC(C)N)C=C(C1)C | C11H17NO
